US07309720B2
c) Ethyl(2S)-2-ethoxy-3-[4-(2-hydroxyethyl)phenyl]propanoate
9-BBN (3.0 mmol, 6 mL of a 0.5 M solution in hexanes) was added to a stirred solution of ethyl(2S)-2-ethoxy-3-(4-vinylphenyl)propanoate (0.37 g, 1.48 mmol) in dry THF under argon. The reaction mixture was stirred for 22 h under argon. Trimethylamine N-oxide dihydrate (0.60 g, 5.4 mmol) was added and the mixture was heated to reflux overnight and diluted with ether (50 mL). The organic layer was washed with brine (×3), dried (MgSO4), filtered, and evaporated. The crude product was purified by flash chromatography (silica, heptane/ethyl acetate 3:1) to give the title compound as an colorless oil (0.24 g, 62%).

reactant | 9-BBN | B1C2CCCC1CCC2 | C8H15B
reactant | ethyl(2S)-2-ethoxy-3-(4-vinylphenyl)propanoate | 1.48 mmol, 0.37 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)C=C | C15H20O3
reactant | Trimethylamine N-oxide dihydrate | 5.4 mmol, 0.60 g | O.O.C[N+](C)(C)[O-]
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | 50 mL | CCOCC | C4H10O
product | Ethyl(2S)-2-ethoxy-3-[4-(2-hydroxyethyl)phenyl]propanoate | 0.24 g, 62% | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)CCO | C15H22O4
